US04492794
To a suspension of lithium aluminum hydride (0.5 g) in dry tetrahydrofuran (260 ml) is portionwise added 2-guanidino-4-ethoxycarbonylthiazole (3.6 g) at 0° C. with stirring in half an hour, and the resultant mixture is refluxed under stirring for 4 hours. Ethyl acetate and water are added to the reaction mixture for decomposing excess lithium aluminum hydride. The organic layer is separated and the residual layer is extracted with methanol. The methanolic extract is combined with the organic layer, dried over anhydrous sodium sulfate and concentrated in vacuum. The residue is chromatographed on a column of silica gel, which is eluted with ethyl acetate:methanol (4:1, v/v). The eluate is concentrated in vacuum to give 2-guanidino-4-hydroxymethylthiazole (1.8 g) as crystals melting at 163°-165° C. The yield is 62.2%.

reactant | lithium aluminum hydride | 0.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-guanidino-4-ethoxycarbonylthiazole | 3.6 g | N(C(=N)N)C=1SC=C(N1)C(=O)OCC | C7H10N4O2S
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 260 ml | O1CCCC1 | C4H8O
product | 2-guanidino-4-hydroxymethylthiazole | 1.8 g, yield is 62.2% | N(C(=N)N)C=1SC=C(N1)CO | C5H8N4OS
